US06479536B1
tert-Butyl 4-methoxy-2,3,6-trimethylphenylcarbamate
To a solution of 4-methoxy-2,3,6-trimethylaniline (21.0 g, 127 mmol) and triethylamine (21.0 ml, 152 mmol) in tetrahydrofuran (150 ml) was added at room temperature di-tert-butyl dicarbonate (32 ml, 140 mmol) and the resulting mixture was refluxed with heating for 14 hours. The solvent was concentrated under reduced pressure. Water was added into the residue and the product was extracted twice with ethyl acetate. The combined extracts were washed with 1 N hydrochloric acid and an aqueous saturated solution of sodium hydrogen carbonate, dried on magnesium sulfate, filtered, and then concentrated under reduced pressure. The residue was crystallized from ethyl acetate-hexane to obtain 25.2 g (75% yield) of the title compound. Melting point: 104-106° C.

reactant | 4-methoxy-2,3,6-trimethylaniline | 127 mmol, 21.0 g | COC1=C(C(=C(N)C(=C1)C)C)C | C10H15NO
reactant | triethylamine | 152 mmol, 21.0 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 140 mmol, 32 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | tert-Butyl 4-methoxy-2,3,6-trimethylphenylcarbamate | 25.2 g, 75% yield | COC1=C(C(=C(C(=C1)C)NC(OC(C)(C)C)=O)C)C | C15H23NO3
